US07282588B2
Preparation of N-[4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-4-thiomorpholinecarboxamide 1,1-dioxide
To a solution of 4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)aniline (0.25 mmol) in anhydrous THF (2 mL) cooled to 5° C., was added triethylamine (4 mmol) and isopropenyl chloroformate (0.5 mmol). The reaction mixture was stirred overnight at room temperature. Thiomorpholine 1,1-dioxide (2.5 mmol) was added and the reaction heated at 50° C. for three days. The crude reaction was purified by reverse phase chromatography to give the title product (30%). ESMS [M+H]+: 640.0.

reactant | 4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)aniline | 0.25 mmol | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCOCC2)C2=CC=C(N)C=C2 | C29H30N6O
reactant | triethylamine | 4 mmol | C(C)N(CC)CC | C6H15N
reactant | isopropenyl chloroformate | 0.5 mmol | ClC(=O)OC(=C)C | C4H5ClO2
reactant | Thiomorpholine 1,1-dioxide | 2.5 mmol | N1CCS(CC1)(=O)=O | C4H9NO2S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | N-[4-(1-ethyl-4-{2-[4-(4-morpholinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]-4-thiomorpholinecarboxamide 1,1-dioxide | 30% | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCOCC2)C2=CC=C(C=C2)NC(=O)N2CCS(CC2)(=O)=O | C34H37N7O4S
